US08486941B2
To a solution of 2,4-dichloropyrimidine (3.2 g, 0.22 mmol) and 4-(cyanomethylcarbamoyl)phenylboronic acid (3.0 g, 15 mmol) in toluene (146 mL) were added n-propanol (44 mL), aqueous sodium bicarbonate (2M, 22 mL) and tetrakis(triphenylphosphine)palladium[0] (850 mg, 0.7 mmol). The reaction was heated at 90° C. for 24 h, then partitioned between ethyl acetate and water. The aqueous layer was extracted twice further with ethyl acetate and the combined organic fractions washed with brine, dried (Na2SO4) filtered and concentrated. Silica gel chromatography using 30-70% ethyl acetate/petroleum spirit as eluent provided 4-(2-chloropyrimidin-4-yl)-N-(cyanomethyl)benzamide as a pale yellow waxy solid (1.35 g, 33%). 1H NMR (300 MHz, d6-DMSO) δ 9.40 (t, J=5.4 Hz, 1H), 8.88 (d, J=5.2 Hz, 1H), 8.32 (d, J=8.7 Hz, 2H), 8.23 (d, J=5.1 Hz, 1H), 8.05 (d, J=8.7 Hz, 2H), 4.36 (d, J=5.4 Hz, 2H); LC-ESI-MS (method B): rt 5.3 min.; m/z 273.2/275.2 [M+H]+.

reactant | 2,4-dichloropyrimidine | 0.22 mmol, 3.2 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-(cyanomethylcarbamoyl)phenylboronic acid | 15 mmol, 3.0 g | C(#N)CNC(=O)C1=CC=C(C=C1)B(O)O | C9H9BN2O3
reactant | n-propanol | 44 mL | C(CC)O | C3H8O
reactant | sodium bicarbonate | 2M, 22 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 146 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-chloropyrimidin-4-yl)-N-(cyanomethyl)benzamide | ClC1=NC=CC(=N1)C1=CC=C(C(=O)NCC#N)C=C1 | C13H9ClN4O
